US07495013B2
b) 4-(3,4-Dichlorophenoxy)-1-(4-piperidinylmethyl)-piperidine
1,1-Dimethylethyl 4-[[4-(3,4-dichlorophenoxy)-1-piperidinyl]methyl]-1-piperidinecarboxylate (1.0 g) was added to a mixture of 20% TFA in dichloromethane (20 mL) and the mixture was stirred at room temperature for 1 h. Solvent was removed by evaporation and 2M sodium hydroxide solution (25 mL) was added to the residue. Product was extracted with ethyl acetate. The organic phase was washed with brine, dried, filtered and evaporated to give the title compound (0.5 g).

reactant | 1,1-Dimethylethyl 4-[[4-(3,4-dichlorophenoxy)-1-piperidinyl]methyl]-1-piperidinecarboxylate | 1.0 g | ClC=1C=C(OC2CCN(CC2)CC2CCN(CC2)C(=O)OC(C)(C)C)C=CC1Cl | C22H32Cl2N2O3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-(3,4-Dichlorophenoxy)-1-(4-piperidinylmethyl)-piperidine | 0.5 g | ClC=1C=C(OC2CCN(CC2)CC2CCNCC2)C=CC1Cl | C17H24Cl2N2O
